US08198448B2
To a solution of 5-(5-chloropyridin-2-yl)-2,3-difluoropyridine (2.4 g, 11 mmol) in IPA (35 mL, 0.3 M) at room temperature was added hydrazine (4 mL, 127 mmol). The reaction mixture was stirred at 60° C. for 2 h, at which point the reaction was cooled to room temperature and concentrated in vacuo. The concentrated material was suspended in saturated NaHCO3 and filtered to obtain product as a white, fluffy solid. The material was re-suspended in water (30 mL), and filtered to obtain 1-(5-(5-chloropyridin-2-yl)-3-fluoropyridin-2-yl)hydrazine (2.1 g, 83% yield). MS m/z=239.2 [M+1]+. Calc'd for C10H8ClFN4: 238.6.

reactant | 5-(5-chloropyridin-2-yl)-2,3-difluoropyridine | 11 mmol, 2.4 g | ClC=1C=CC(=NC1)C=1C=C(C(=NC1)F)F | C10H5ClF2N2
reactant | hydrazine | 127 mmol, 4 mL | NN | H4N2
solvent | IPA | 0.3 M, 35 mL | CC(C)O | C3H8O
solvent | water | 30 mL | O | H2O
product | 1-(5-(5-chloropyridin-2-yl)-3-fluoropyridin-2-yl)hydrazine | 2.1 g, 83% yield | ClC=1C=CC(=NC1)C=1C=C(C(=NC1)NN)F | C10H8ClFN4
